US04963568
To a solution of 1.0 g (2.52 mmol) of 2-benzyl-6,7-dimethoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benz[e]isoindole, from Step 5, in 22 mL of 1,2-dichloroethane was added 0.11 g (0.05 mmol) of 1,8-bis(dimethylamino)naphthalene and 0 33 mL (3.15 mmol) of 1-chloroethyl chloroformate at 0° C. The solution was heated to reflux for 2 h and the solvent removed in vacuo. The residue was filtered through silica gel, eluting with 25% ethyl acetate in hexanes. After concentration under reduced pressure, methanol (20 mL) was added and the solution was heated to reflux for 30 minutes before the solvent was removed in vacuo. The product was crystallized from ethanol/diethyl ether to give 0.46 g (75% yield) of 6,7-dimethoxy-4-phenyl-2,3,4,5-tetrahydro 1H-benz[e]isoindole hydrochloride as a white solid. MS DCI: (M+H)+ 308. 1H NMR (d6DMSO) delta 3.05-3.25 (m, 2H), 3.55 (s, 3H), 3.80 (s, 3H), 3.88 (m, 1H), 4.0-4.15 (m, 2H), 4.25-4.45 (m, 2H), 6.91 (m, 1H), 7.15-7.3 (m, 3H), 7.4-7.6 (m, 3H).

reactant | 2-benzyl-6,7-dimethoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benz[e]isoindole | 2.52 mmol, 1.0 g | C(C1=CC=CC=C1)N1CC=2C(CC3=C(C2C1)C=CC(=C3OC)OC)C3=CC=CC=C3 | C27H27NO2
reactant | 1,8-bis(dimethylamino)naphthalene | 0.05 mmol, 0.11 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 22 mL | ClCCCl | C2H4Cl2
product | 6,7-dimethoxy-4-phenyl-2,3,4,5-tetrahydro 1H-benz[e]isoindole hydrochloride | 0.46 g, 75% yield | Cl.COC1=C(C=CC=2C=3CNCC3C(CC21)C2=CC=CC=C2)OC | InChI=1S/C20H21NO2.ClH/c1-22-19-9-8-14-16(20(19)23-2)10-15(13-6-4-3-5-7-13)18-12-21-11-17(14)18;/h3-9,15,21H,10-12H2,1-2H3;1H
